US08242125B2
150-E. N-(5-cyclopropyl-1-ethyl-1H-pyrazol-3-yl)-5-(2-((methylamino)methyl)pyrimidin-4-yloxy)-1H-indole-1-carboxamide
To a solution of tert-butyl (4-(1-(5-cyclopropyl-1-ethyl-1H-pyrazol-3-ylcarbamoyl)-1H-indol-5-yloxy)pyrimidin-2-yl)methyl(methyl)carbamate (33 mg, 0.062 mmol) in DCM (2 mL) at 0° C. is added TFA (0.7 mL, 9.1 mmol). The reaction is stirred for 30 minutes at 0° C. and is then placed at room temperature for an additional 20 minutes. The reaction mixture is then concentrated in vacuo to near dryness and then diluted with DCM and water. The mixture is neutralized by the addition of saturated aqueous NaHCO3 and the resulting layers are separated. The aqueous layer is extracted two additional times with DCM. The organic layers are combined, dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue is purified via FCC (0-20% MeOH)/DCM) to give the title compound. MS (ESI) m/z 432.2 (M+1). (DMSO-d6) δ ppm 0.62-0.71 (m, 2H) 0.93-1.02 (m, 2H) 1.37 (t, J=7.20 Hz, 3H) 1.86-1.99 (m, 1H) 2.30 (s, 3H) 3.71 (s, 2H) 4.15 (q, J=7.24 Hz, 2H) 6.16 (s, 1H) 6.71 (d, J=4.29 Hz, 1H) 6.87 (d, J=5.56 Hz, 1H) 7.12 (dd, J=9.09, 2.27 Hz, 1H) 7.46 (d, J=2.27 Hz, 1H) 8.17 (d, J=3.79 Hz, 1H) 8.31 (d, J=9.09 Hz, 1H) 8.61 (d, J=5.56 Hz, 1H) 10.64 (s, 1H)

reactant | tert-butyl (4-(1-(5-cyclopropyl-1-ethyl-1H-pyrazol-3-ylcarbamoyl)-1H-indol-5-yloxy)pyrimidin-2-yl)methyl(methyl)carbamate | 0.062 mmol, 33 mg | C1(CC1)C1=CC(=NN1CC)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC(=NC=C1)CN(C(OC(C)(C)C)=O)C | C28H33N7O4
reactant | TFA | 9.1 mmol, 0.7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(5-cyclopropyl-1-ethyl-1H-pyrazol-3-yl)-5-(2-((methylamino)methyl)pyrimidin-4-yloxy)-1H-indole-1-carboxamide | C1(CC1)C1=CC(=NN1CC)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC(=NC=C1)CNC | C23H25N7O2
